US05780642
In a similar manner to Example 24, N-(1-ethyl-1-phenylpropyl)acrylamide (6.1 g) and 4-cyanomethylimidazole (3.0 g, Sigma Chemicals) were reacted in 1,4-dioxane (60 ml) in the presence of Triton B (0.8 ml) to give 3-[4-(cyanomethyl)imidazol-1-yl]-N-(1-ethyl-1-phenylpropyl)propionamide, m.p. 121°-122° C.

reactant | N-(1-ethyl-1-phenylpropyl)acrylamide | 6.1 g | C(C)C(CC)(C1=CC=CC=C1)NC(C=C)=O | C14H19NO
reactant | 4-cyanomethylimidazole | 3.0 g | C(#N)CC=1N=CNC1 | C5H5N3
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 3-[4-(cyanomethyl)imidazol-1-yl]-N-(1-ethyl-1-phenylpropyl)propionamide | C(#N)CC=1N=CN(C1)CCC(=O)NC(CC)(C1=CC=CC=C1)CC | C19H24N4O
